US05286860
An ethanolic solution of 2-chloro-5-(2-fluoro-5-methoxyphenyl) pyrazine and hydrazine monohydrate (10 equiv.) was refluxed under a N2 atmosphere for 6 h. The ethanol was removed under reduced pressure and the residue was partitioned between 5% HCl and CH2Cl2. The CH2Cl2 layer was extracted several times with 5% HCl and the combined aqueous portions were washed (1×) with CH2Cl2. The aqueous solution was made basic with 10N NaOH and then extracted (4×) with CH2Cl2. The combined CH2Cl2 portions were washed (1×) with brine, dried (Na2SO4), treated with decolorizing charcoal and filtered through celite. Evaporation of the solvent under reduced pressure yielded 2-hydrazino-5-(2-fluoro-5-methoxyphenyl)-pyrazine as a beige oil.

reactant | 2-chloro-5-(2-fluoro-5-methoxyphenyl) pyrazine | ClC1=NC=C(N=C1)C1=C(C=CC(=C1)OC)F | C11H8ClFN2O
reactant | hydrazine monohydrate | 10 equiv. | O.NN
product | 2-hydrazino-5-(2-fluoro-5-methoxyphenyl)-pyrazine | N(N)C1=NC=C(N=C1)C1=C(C=CC(=C1)OC)F | C11H11FN4O
